US05079260
Phenylalanine (27.25 g, 0.165 mole) was dissolved in a solution of sodium carbonate (31.8 g, 0.3 mole) in 320 ml of water. This mixture was added to a solution of 9-fluorenylmethylsuccinimidyl carbonate (50.8 g, 0.15 mole) dissolved in a minimum amount of dioxane (approximately 90 ml being required). The mixture was stirred vigorously (mechanical stirring) at room temperature for 22 hours and then diluted with water. The reaction mixture was extracted twice with ethyl ether and then acidified to pH 2 with concentrated hydrochloric acid in the presence of 750 ml of ethyl acetate. The organic layer was separated, washed twice with 1 N hydrochloric acid, twice with water, once with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The product was crystallized by addition of hexane to the boiling ethyl acetate solution, to give 18 g of N-[(9H-fluoren-9ylmethyloxy)carbonyl]-L-phenylalanine, mp 179°-181° C.

reactant | Phenylalanine | 0.165 mole, 27.25 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | sodium carbonate | 0.3 mole, 31.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9-fluorenylmethylsuccinimidyl carbonate | 0.15 mole, 50.8 g | C(ON1C(C(CC1=O)CC1C2=CC=CC=C2C=2C=CC=CC12)=O)([O-])=O
solvent | water | 320 ml | O | H2O
solvent | dioxane | approximately 90 ml | O1CCOCC1 | C4H8O2
product | N-[(9H-fluoren-9ylmethyloxy)carbonyl]-L-phenylalanine | 18 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C24H21NO4
